US06288120B1
Catalytic sulfuric acid was added to a solution of 4-(4-aminophenyl) butyric acid (6.0 g, 33.48 mmol) in EtOH. The reaction mixture was stirred at room temperature for 24 h. HCl (5 mL, 6N) was added and the reaction mixture was heated at reflux for 24 h. The reaction mixture was concentrated in vacuo and CH2Cl2 and water were added. The pH was adjusted to 7.0 with aqueous NaHCO3 (satd). The organic solution was washed with water (1×) and brine (1×), dried over MgSO4, filtered, and concentrated to afford 4-(4-amino-phenyl)-butyric acid ethyl ester (1.53 g). 1H NMR (400 MHz, CDCl3) δ 6.95 (d, 2H), 6.61 (d, 2H), 4.10 (q, 2H), 3.66 (bs, 2H), 2.53 (t, 2H), 2.29 (t, 2H), 1.88 (m, 2H), 1.24 (t, 3H).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-(4-aminophenyl) butyric acid | 33.48 mmol, 6.0 g | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | HCl | 6N, 5 mL | Cl | ClH
reactant | EtOH | CCO | C2H6O
product | 4-(4-amino-phenyl)-butyric acid ethyl ester | 1.53 g | C(C)OC(CCCC1=CC=C(C=C1)N)=O | C12H17NO2
